US07022730B2
The compound Bis(4-chloro-1-benzylindol-3-yl)-(5-hydroxymethyl-2-furyl)methane was prepared following procedure B, starting from 4-chloro indole and benzylbromide, and the resulting compound was reacted with 5-hydroxy methyl furfural following general procedure A. LC: Tr 2.89 min, MS: 591 (M+H)+

reactant | 4-chloro indole | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | benzylbromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 5-hydroxy methyl furfural | OCC1=CC=C(C=O)O1 | C6H6O3
product | Bis(4-chloro-1-benzylindol-3-yl)-(5-hydroxymethyl-2-furyl)methane | ClC1=C2C(=CN(C2=CC=C1)CC1=CC=CC=C1)C(C=1OC(=CC1)CO)C1=CN(C2=CC=CC(=C12)Cl)CC1=CC=CC=C1 | C36H28Cl2N2O2
